US09343198B2
3,6-dibromocarbazole (3.03 g, 9.32 mmol), 4-(octyloxy)phenylboronic acid (7.14 g, 28.5 mmol), aqueous NaHCO3 (80 ml), ethanol (120 ml) and toluene (190 ml) was mixed and degassed with nitrogen for 15 minutes before adding the Pd(PPh3)4 catalyst (80 mg, 0.07 mmol). The reaction mixture was then brought to reflux at 90° C. for 5 h 20 minutes. It was quenched with water when reached room temperature and extracted three times with ethyl acetate. The combined organic phases were washed with brine and water and evaporated. The residual solid was dissolved in toluene and precipitated in petroleum ether. The precipitate was purified using column chromatography with toluene as mobile phase which yielded 3,6-bis(4-(octyloxy)phenyl)-carbazole (5.42 g, 9.41 mmol) as a white solid.

reactant | 3,6-dibromocarbazole | 9.32 mmol, 3.03 g | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7Br2N
reactant | 4-(octyloxy)phenylboronic acid | 28.5 mmol, 7.14 g | C(CCCCCCC)OC1=CC=C(C=C1)B(O)O | C14H23BO3
reactant | NaHCO3 | 80 ml | C(=O)(O)[O-].[Na+]
reactant | ethanol | 120 ml | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 0.07 mmol, 80 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 190 ml | C1(=CC=CC=C1)C | C7H8
product | 3,6-bis(4-(octyloxy)phenyl)-carbazole | 9.41 mmol, 5.42 g | C(CCCCCCC)OC1=CC=C(C=C1)C=1C=CC=2NC3=CC=C(C=C3C2C1)C1=CC=C(C=C1)OCCCCCCCC | C40H49NO2
